US04777252
(G) 2-[[[1-(2-Amino-4-thiazolyl)-2-[[1-[[[[3-[[(1,4-dihydro-6,7-dihydroxy-4-oxo-3-quinolinyl)carbonyl]amino]-2-oxo-1-imidazolidinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2-methylpropanoic acid, diphenylmethyl ester
To a solution of [1-[[[[3-[[(1,4-dihydro-6,7-dihydroxy-3-quinolinyl)carbonyl]amino]-2-oxo-1-imidazolidinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester (3.35 g, 5.3 mmol) in 60 ml of N,N-dimethylformamide, N-methyl-N-trimethylsilyl trifluoroacetamide (5.28 g, 26.5 mmol) was added. After 30 minutes, 1.68 g of palladium on carbon was added, and the mixture was hydrogenolyzed for 1 hour. The catalyst was removed by filtration and the filtrate added to a solution of (Z)-2-amino-α-[[2-(diphenylmethoxy)-1,1-dimethyl-2-oxoethoxy]imino]-4-thiazoleacetic acid, 1-benzotriazole ester (2.96 g, 5.3 mmol) in 30 ml of N,N-dimethylformamide. After stirring for 20 hours, the solvent was distilled off and the residue triturated with 60 ml of water and 75 ml of ethyl acetate. The resulting crystals were filtered off, washed with water and dried in vacuo to give 3.27 g of the title compound.

reactant | [1-[[[[3-[[(1,4-dihydro-6,7-dihydroxy-3-quinolinyl)carbonyl]amino]-2-oxo-1-imidazolidinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester | 5.3 mmol, 3.35 g | OC=1C=C2CC(=CNC2=CC1O)C(=O)NN1C(N(CC1)S(=O)(=O)NC(=O)N1C(C(C1)NC(OCC1=CC=CC=C1)=O)=O)=O | C25H25N7O10S
reactant | N-methyl-N-trimethylsilyl trifluoroacetamide | 26.5 mmol, 5.28 g | CN(C(C(F)(F)F)=O)[Si](C)(C)C | C6H12F3NOSi
reactant | (Z)-2-amino-α-[[2-(diphenylmethoxy)-1,1-dimethyl-2-oxoethoxy]imino]-4-thiazoleacetic acid | NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C22H21N3O5S
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
catalyst | palladium on carbon | 1.68 g | [Pd] | Pd
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-[[[1-(2-Amino-4-thiazolyl)-2-[[1-[[[[3-[[(1,4-dihydro-6,7-dihydroxy-4-oxo-3-quinolinyl)carbonyl]amino]-2-oxo-1-imidazolidinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2-methylpropanoic acid, diphenylmethyl ester | 3.27 g | NC=1SC=C(N1)C(C(=O)NC1C(N(C1)C(=O)NS(=O)(=O)N1C(N(CC1)NC(=O)C1=CNC2=CC(=C(C=C2C1=O)O)O)=O)=O)=NOC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C39H36N10O13S2
